US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[3-(methylsulfonyl)-2-thienyl]-1-ethynyl]piperidine
500 mg of 1-[(2-methoxy-3-pyridyl)methyl]-4-(1-ethynyl)piperidine, 530 mg of 2-bromo-3-(methylsulfonyl)thiophene, 21 mg of anhydrous cupric iodide and 127 mg of tetrakis(triphenylphosphine)palladium were suspended in a mixed solvent of 2.2 ml of triethylamine and 2.2 ml of N,N-dimethylformamide, and the mixture was stirred at 100° C. for 2 hours under nitrogen flow. Ethyl acetate was added to the reaction solution, and the resulting precipitates were filtered off. Then, water was added to the filtrate, and the mixture was extracted with ethyl acetate. The solvent was evaporated, and then the crude product was purified by silica gel column chromatography (ethyl acetate), to give 450 mg of the title compound as a colorless oil.

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-(1-ethynyl)piperidine | 500 mg | COC1=NC=CC=C1CN1CCC(CC1)C#C | C14H18N2O
reactant | 2-bromo-3-(methylsulfonyl)thiophene | 530 mg | BrC=1SC=CC1S(=O)(=O)C | C5H5BrO2S2
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 2.2 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 127 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[3-(methylsulfonyl)-2-thienyl]-1-ethynyl]piperidine | 450 mg | COC1=NC=CC=C1CN1CCC(CC1)C#CC=1SC=CC1S(=O)(=O)C | C19H22N2O3S2
